US04052507
A mixture of 380 mg. (0.001 mole) of 4-[2-(1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione-5-carboxamido)ethyl]-1-piperidinesulfonamide, 220 mg. (0.001 mole) of 1-adamantyl isocyanate and 310 mg. (0.002 mole) of anhydrous potassium carbonate in 30 ml. of acetone was refluxed for a period of 20 hours. At the end of this time, the spent reaction mixture was cooled and the excess potassium carbonate subsequently removed therefrom by means of suction filtration. The resulting filtrate was then slowly acidified with 1N aqueous hydrochloric acid causing a white precipitate to form. The latter material was subsequently recovered by suction filtration and thereafter recrystallized from acetonitrile-methanol to afford 220 mg (38%) of pure 1-(1-adamantyl)3-{4-[2-(1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione-5-carboxamido)ethyl]-1-piperidinesulfonyl}urea, m.p. 224°-226° C.

reactant | 4-[2-(1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione-5-carboxamido)ethyl]-1-piperidinesulfonamide | 0.001 mole | CN1C(N(C(C(=C1)C(=O)NCCC1CCN(CC1)S(=O)(=O)N)=O)C)=O | C14H23N5O5S
reactant | 1-adamantyl isocyanate | 0.001 mole | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | potassium carbonate | 0.002 mole | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(1-adamantyl)3-{4-[2-(1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione-5-carboxamido)ethyl]-1-piperidinesulfonyl}urea | 220 mg, 38% | C12(CC3CC(CC(C1)C3)C2)NC(=O)NS(=O)(=O)N2CCC(CC2)CCNC(=O)C=2C(N(C(N(C2)C)=O)C)=O | C25H38N6O6S
